US07544835B2
Dimethyl 2-[3-({[(3-methoxyanilino)carbonyl]-oxy}methyl)benzyl]malonate
Using dimethyl 2-[3-(hydroxymethyl)benzyl]malonate and 3-methoxyphenylisocyanate, the title compound was obtained in the same manner as described in Example 192b).

reactant | dimethyl 2-[3-(hydroxymethyl)benzyl]malonate | OCC=1C=C(CC(C(=O)OC)C(=O)OC)C=CC1 | C13H16O5
reactant | 3-methoxyphenylisocyanate | COC=1C=C(C=CC1)N=C=O | C8H7NO2
product | Dimethyl 2-[3-({[(3-methoxyanilino)carbonyl]-oxy}methyl)benzyl]malonate | COC=1C=C(NC(=O)OCC=2C=C(CC(C(=O)OC)C(=O)OC)C=CC2)C=CC1 | C21H23NO7
